US03948939
B. Benzyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-4-carboxylate
To 0.85 g. sodium hydride in 150 ml. of dry dimethylformamide was added, portionwise, 9 g. of benzyl 1,2,3,4-tetrahydrocarbazole-4-carboxylate. The mixture was heated on a steam bath for 15 minutes, the heat was removed, 4 ml. benzoyl chloride was added dropwise to the still hot mixture and heating was resumed for two hours. The mixture, after standing overnight at room temperature, was poured into water containing 4 ml. glacial acetic acid and the resulting mixture was extracted with ether. The ether extract was washed with sodium bicarbonate solution and water, dried, and evaporated to dryness. The resulting residue in 50 ml. dimethylformamide was again treated with 0.42 g. sodium hydride and 2 ml. benzoyl chloride and worked up as described above and the resulting crude product was chromatographed on a 45 mm. by 620 mm. silica gel column using as eluant hexane and hexane containing increasing amounts of ether. There was thus obtained with 7.5% ether in hexane, after evaporation to dryness and recrystallization, 4.6 g. of the title compound; m.p. 107°-109°C. (methyl alcohol).

reactant | sodium hydride | [H-].[Na+]
reactant | benzyl 1,2,3,4-tetrahydrocarbazole-4-carboxylate | C1CCC(C=2C3=CC=CC=C3NC12)C(=O)OCC1=CC=CC=C1 | C20H19NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Benzyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-4-carboxylate | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2C(CCCC12)C(=O)OCC1=CC=CC=C1 | C27H23NO3
